US07855297B2
By the reaction and treatment in the same manner as in Preparation Example 11 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.51 g) and 5-amino-2-isopropylpyridine (1.17 g) as starting materials, N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (2.18 g) was obtained. melting point: 155.7° C.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.51 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | 5-amino-2-isopropylpyridine | 1.17 g | NC=1C=CC(=NC1)C(C)C | C8H12N2
product | N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 2.18 g | C(C)(C)C1=CC=C(C=N1)NC(=O)C1CCCC2=CC=CC=C12 | C19H22N2O
